### PR TITLE
[Merged by Bors] - feat: `NumberField.InfinitePlace.sum_inertiaDeg_eq_finrank`

### PR DESCRIPTION
**Pull request by smmercuri**
If `L/K` are number fields and `v : InfinitePlace K`, then the sum of inertia degrees of `w : InfinitePlace L` lying over `v` is the degree of `L` over `K`.

---

- [x] depends on: #27978 
- [x] depends on: #27974
- [x] depends on: #29942 
- [x] depends on: #29946
- [x] depends on: #36132
- [x] depends on: #36257
- [x] depends on: #36268
- [x] depends on: #36353
- [x] depends on: #36393

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean [hunk 1]
```diff
@@ -0,0 +1,123 @@
...
+    Module.finrank v.Completion w.Completion = 1 := by
+  by_cases hv : v.IsReal
+  · letI := LiesOver.extensionEmbedding_liesOver_of_isReal w hv
+    rw [Algebra.finrank_eq_of_equiv_equiv (ringEquivRealOfIsReal hv) (ringEquivRealOfIsReal
+        (h.liesOver_isReal_over _ _ hv)) (RingHom.ext fun _ ↦ Complex.ofReal_inj.1 <| by
+        simp [this.over_apply]), Module.finrank_self]
+  · have hv : v.IsComplex := not_isReal_iff_isComplex.1 hv
+    cases LiesOver.embedding_comp_eq_or_conjugate_embedding_comp_eq w v with
+    | inl hl =>
+      letI : ComplexEmbedding.LiesOver w.embedding v.embedding := ⟨hl⟩
```
Comment (Multramate) [inline Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]: I guess this is just an instance? It shouldn't be `letI` and instead just a `have`. Same with the others.

File: Mathlib/NumberTheory/NumberField/Completion/InfinitePlace.lean [hunk 2]
```diff
@@ -223,13 +228,22 @@ theorem algebraMap_coe (x : WithAbs v.1) :
...
 
+end Completion
+
+section LiesOver
+
+variable {L : Type*} [Field L] [Algebra K L] (w : InfinitePlace L) (v : InfinitePlace K)
+
+namespace Completion
+
+variable [Algebra v.Completion w.Completion] [IsScalarTower K v.Completion w.Completion]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Completion/InfinitePlace.lean:230]:
```suggestion
variable [Algebra v.Completion w.Completion] [IsScalarTower K v.Completion w.Completion]

```

File: Mathlib/NumberTheory/NumberField/Completion/InfinitePlace.lean [hunk 3]
```diff
@@ -266,15 +280,19 @@ theorem isometry_algebraMap : Isometry (algebraMap (WithAbs v.1) (WithAbs w.1))
...
 
 variable [Algebra v.Completion w.Completion] [IsScalarTower K v.Completion w.Completion]
+  [ContinuousSMul v.Completion w.Completion]
 
-theorem extensionEmbedding_liesOver_of_isReal
-    [ContinuousSMul v.Completion w.Completion] (h : v.IsReal) :
+theorem extensionEmbedding_liesOver_of_isReal (h : v.IsReal) :
     ComplexEmbedding.LiesOver (extensionEmbedding w) (extensionEmbedding v) :=
-  letI := embedding_liesOver_of_isReal w h; liesOver_extensionEmbedding w
+  letI := embedding_liesOver_of_isReal w h; liesOver_extensionEmbedding w v
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Completion/InfinitePlace.lean]:
```suggestion
  let := embedding_liesOver_of_isReal w h; liesOver_extensionEmbedding w v
```
This works nowadays, and inlining should not be necessary.

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean [hunk 4]
```diff
@@ -0,0 +1,123 @@
...
+## Main definitions
+
+- `NumberField.InfinitePlace.inertiaDeg` : the inertia degree of a place `w` of `L` over a
+  place `v` of `K`, defined as the local degree of the extension of completions at `w` and
+  `v` if `w` lies over `v` and zero otherwise.
+
+## Main results
+
+- `NumberField.InfinitePlace.sum_inertiaDeg_eq_finrank` : the degree of `L` over `K` is equal to
+the sum of the inertia degrees of the places of `L` over `v`.
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]:
```suggestion
  the sum of the inertia degrees of the places of `L` over `v`.
```

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean [hunk 5]
```diff
@@ -0,0 +1,123 @@
...
+
+variable {K L : Type*} [Field K] [Field L] [Algebra K L] (v : InfinitePlace K) (w : InfinitePlace L)
+
+namespace Completion
+
+set_option backward.isDefEq.respectTransparency false in
+/-- If `w` is a ramified place over `v` then `w.Completion` has `v.Completion` dimension two. -/
+theorem finrank_eq_two_of_isRamified (w : InfinitePlace L) [w.1.LiesOver v.1]
+    (h : w.IsRamified K) : Module.finrank v.Completion w.Completion = 2 := by
+  have := LiesOver.extensionEmbedding_liesOver_of_isReal w <| h.liesOver_isReal_under w v
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]: It looks like the `w` argument of [NumberField.InfinitePlace.IsRamified.liesOver_isReal_under](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/NumberField/InfinitePlace/Ramification.html#NumberField.InfinitePlace.IsRamified.liesOver_isReal_under) can be implicit (and similarly for `w` and `v` in the lemma following it). But this is perhaps mission creep for this PR...

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean [hunk 6]
```diff
@@ -0,0 +1,123 @@
...
+  rw [Algebra.finrank_eq_of_equiv_equiv (ringEquivRealOfIsReal <| h.liesOver_isReal_under w v)
+      (ringEquivComplexOfIsComplex h.isComplex) (by ext; simp [this.over_apply]),
+    Complex.finrank_real_complex]
+
+set_option backward.isDefEq.respectTransparency false in
+/-- If `w` is an unramified place over `v` then `w.Completion` has `v.Completion` dimension one. -/
+theorem finrank_eq_one_of_isUnramified [w.1.LiesOver v.1] (h : w.IsUnramified K) :
+    Module.finrank v.Completion w.Completion = 1 := by
+  by_cases hv : v.IsReal
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]: Use [NumberField.InfinitePlace.isReal_or_isComplex](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/NumberField/InfinitePlace/Basic.html#NumberField.InfinitePlace.isReal_or_isComplex) instead?

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean [hunk 7]
```diff
@@ -0,0 +1,123 @@
...
+namespace Completion
+
+set_option backward.isDefEq.respectTransparency false in
+/-- If `w` is a ramified place over `v` then `w.Completion` has `v.Completion` dimension two. -/
+theorem finrank_eq_two_of_isRamified (w : InfinitePlace L) [w.1.LiesOver v.1]
+    (h : w.IsRamified K) : Module.finrank v.Completion w.Completion = 2 := by
+  have := LiesOver.extensionEmbedding_liesOver_of_isReal w <| h.liesOver_isReal_under w v
+  rw [Algebra.finrank_eq_of_equiv_equiv (ringEquivRealOfIsReal <| h.liesOver_isReal_under w v)
+      (ringEquivComplexOfIsComplex h.isComplex) (by ext; simp [this.over_apply]),
+    Complex.finrank_real_complex]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]:
```suggestion
  have H := NumberField.InfinitePlace.isRamified_iff.mp h
  rw [NumberField.InfinitePlace.LiesOver.comap_eq w v] at H
  have := LiesOver.extensionEmbedding_liesOver_of_isReal w H.2
  rw [Algebra.finrank_eq_of_equiv_equiv (ringEquivRealOfIsReal H.2)
      (ringEquivComplexOfIsComplex H.1) (by ext; simp [this.over_apply]),
    Complex.finrank_real_complex]
```
This is slightly longer, but I think a bit easier to follow.

The goal `(extensionEmbedding v) x = (extensionEmbedding w) ((algebraMap v.Completion w.Completion) x)` that one obtains from a simple `ext x; simp` looks like its symmetric form could be a reasonable `simp` lemma by itself.

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean [hunk 8]
```diff
@@ -0,0 +1,123 @@
...
+
+set_option backward.isDefEq.respectTransparency false in
+/-- If `w` is an unramified place over `v` then `w.Completion` has `v.Completion` dimension one. -/
+theorem finrank_eq_one_of_isUnramified [w.1.LiesOver v.1] (h : w.IsUnramified K) :
+    Module.finrank v.Completion w.Completion = 1 := by
+  by_cases hv : v.IsReal
+  · have := LiesOver.extensionEmbedding_liesOver_of_isReal w hv
+    rw [Algebra.finrank_eq_of_equiv_equiv (ringEquivRealOfIsReal hv) (ringEquivRealOfIsReal
+        (h.liesOver_isReal_over _ _ hv)) (RingHom.ext fun _ ↦ Complex.ofReal_inj.1 <| by
+        simp [this.over_apply]), Module.finrank_self]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]:
```suggestion
    rw [Algebra.finrank_eq_of_equiv_equiv (ringEquivRealOfIsReal hv)
          (ringEquivRealOfIsReal (h.liesOver_isReal_over _ _ hv))
          (RingHom.ext fun _ ↦ Complex.ofReal_inj.1 <| by simp [this.over_apply]),
        Module.finrank_self]
```
(easier to parse)

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean [hunk 9]
```diff
@@ -0,0 +1,123 @@
...
+theorem inertiaDeg_eq_finrank [w.1.LiesOver v.1] :
+    v.inertiaDeg w = Module.finrank v.Completion w.Completion := by
+  simp only [inertiaDeg_of_liesOver, Ideal.inertiaDeg, Ideal.comap_bot_of_injective _ <|
+    FaithfulSMul.algebraMap_injective v.Completion w.Completion]
+  exact Algebra.finrank_eq_of_equiv_equiv (RingEquiv.quotientBot v.Completion)
+    (RingEquiv.quotientBot w.Completion) (by ext; simp [RingHom.algebraMap_toAlgebra])
+
+variable {v w} in
+theorem inertiaDeg_eq_one (hw : w ∈ unramifiedPlacesOver L v) : v.inertiaDeg w = 1 :=
+  have := hw.1; finrank_eq_one_of_isUnramified v w hw.2 ▸ inertiaDeg_eq_finrank v w
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]: This looks like defeq abuse. Better rewrite with `Set.mem_setOf` at `hw`?

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean [hunk 10]
```diff
@@ -0,0 +1,123 @@
...
+open scoped Classical in
+open Finset Set in
+/-- The degree of `L` over `K` is equal to the sum of the inertia degrees of the places over `v`. -/
+theorem sum_inertiaDeg_eq_finrank [NumberField K] [NumberField L] :
+    ∑ w ∈ v.placesOver L, v.inertiaDeg w = Module.finrank K L := by
+  rw [← union_ramifiedPlacesOver_unramifiedPlacesOver L v, toFinset_union,
+    sum_union (Set.disjoint_toFinset.2 <| disjoint_ramifiedPlacesOver_unramifiedPlacesOver L v),
+    sum_congr rfl (fun _ h ↦ inertiaDeg_eq_two (by simpa using h)),
+    sum_congr rfl (fun _ h ↦ inertiaDeg_eq_one (by simpa using h)), sum_const, add_comm]
+  simp [←  unramifedPlacesOver_ncard_add_eq_finrank L v, mul_comm, ncard_eq_toFinset_card']
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]:
```suggestion
  simp [← unramifedPlacesOver_ncard_add_eq_finrank L v, mul_comm, ncard_eq_toFinset_card']
```

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean (hunk 7 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]: Do you mean something like this?
```lean
@[simp]
theorem liesOver_apply {φ : L →+* ℂ} {ψ : K →+* ℂ} [ComplexEmbedding.LiesOver φ ψ] {x : K} :
    φ (algebraMap K L x) = ψ x := by
  simp_all [liesOver_iff, RingHom.ext_iff]
```
If so, then `simp` seems unable to fire since `ψ` does not appear on the LHS

File: Mathlib/NumberTheory/NumberField/Completion/InfinitePlace.lean (hunk 3 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Completion/InfinitePlace.lean]: I keep forgetting this!

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]: I meant what I had written (i.e., the version specialized to `extensionEmbedding`). I had the impression that `extensionEmbedding` could to with a bit more API.
Does your lemma apply in the given situation? (I.e., instead of `this.over_apply`.)
In any case, your version above looks useful as a lemma to rewrite with (not `simp`, as you point out).

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM.

**Comment by MichaelStollBayreuth** [comment]
You'll have to merge master to fix the build, I think.

File: Mathlib/NumberTheory/NumberField/Completion/Ramification.lean (hunk 7 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Completion/Ramification.lean]: My lemma applies, but only by explicitly setting `(ψ := extensionEmbedding v)` so it's a bit cumbersome. The following semi-specialised version applies with `simp`:
```lean
@[simp]
theorem liesOver_extensionEmbedding_apply {φ : w.Completion →+* ℂ}
    [ComplexEmbedding.LiesOver φ (extensionEmbedding v)] {x : v.Completion} :
    φ (algebraMap v.Completion w.Completion x) = (extensionEmbedding v) x := by
  simp_all [liesOver_iff, RingHom.ext_iff]
```

**Comment by MichaelStollBayreuth** [comment]
I think this is now good to go.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
